US05026874
A mixture of 6-chloro-1-trimethylsilylhex-1-yne (14.0 g.) and sodium iodide (30 g) in butanone (100 ml) was heated at reflux, with stirring, for 10 hours. After this time the solvent was removed in vacuo and the residue partitioned between diethyl ether and water. The organic phase was separated, washed with water and brine before drying over anhydrous magnesium sulphate. The solvent was removed under reduced pressure to leave 6-iodo-1-trimethylsilylhex-1-yne as a yellow oil (20.0 g).

reactant | 6-chloro-1-trimethylsilylhex-1-yne | 14.0 g | ClCCCCC#C[Si](C)(C)C | C9H17ClSi
reactant | sodium iodide | 30 g | [I-].[Na+]
solvent | butanone | 100 ml | CC(CC)=O | C4H8O
product | 6-iodo-1-trimethylsilylhex-1-yne | 20.0 g | ICCCCC#C[Si](C)(C)C | C9H17ISi
